US04767882
To a solution 1,1,2,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene (21.0 g; 0.097 mol) and acetyl chloride (8.0 g; 0.102 mol) in dichloroethane (60 g), anhydrous aluminum chloride (14.9 g; 0.112 mol) was added, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was treated with dilute hydrochloric acid. The organic layer was separated, washed with dilute hydrochloric acid, saturated sodium carbonate solution and saturated sodium chloride solution, dried and concentrated to give 7-acetyl-1,1,2,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene (19.3 g; 0.075 mol; 77%). B.P., 109° C./0.2 mmHg. M.P., 61.5°-62.5° C.

reactant | 1,1,2,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene | 0.097 mol, 21.0 g | CC1(C(CC(C2=CC(=CC=C12)C)(C)C)C)C | C16H24
reactant | acetyl chloride | 0.102 mol, 8.0 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 0.112 mol, 14.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloroethane | 60 g | ClC(C)Cl | C2H4Cl2
product | 7-acetyl-1,1,2,4,4,6-hexamethyl-1,2,3,4-tetrahydronaphthalene | 0.075 mol, 19.3 g, 77% | C(C)(=O)C1=C(C=C2C(CC(C(C2=C1)(C)C)C)(C)C)C | C18H26O
